US07405236B2
b] 5-(4-Trifluoromethoxy-phenyl)-pent-4-ynoic acid
In analogy to the procedure described for example 1 e], 5-(4-trifluoromethoxy-phenyl)-pent-4-ynoic acid methyl ester was treated with LiOH to obtain the title compound as brown crystals.

reactant | 5-(4-trifluoromethoxy-phenyl)-pent-4-ynoic acid methyl ester | COC(CCC#CC1=CC=C(C=C1)OC(F)(F)F)=O | C13H11F3O3
reactant | LiOH | [Li+].[OH-]
product | 5-(4-Trifluoromethoxy-phenyl)-pent-4-ynoic acid | FC(OC1=CC=C(C=C1)C#CCCC(=O)O)(F)F | C12H9F3O3
